.lib "sky130_minimal.lib.spice" tt
.include "ota_foldcasc.spice"

Vdd vdd 0 dc 1.8
Vss vss 0 dc 0
Mbn vbn vbn 0 0 sky130_fd_pr__nfet_01v8__model W=4u L=4u nf=1
Ibias vdd vbn dc 500n
Vbcn vbcn 0 dc 0.80
Mbp vbp vbp vdd vdd sky130_fd_pr__pfet_01v8__model W=8u L=1u nf=2
Ibp vbp 0 dc 500n
Vbcp vbcp 0 dc 0.70

* Inputs at 0.9V, output forced to 0.9V region
Vinp vinp 0 dc 0.9
Vinn vinn 0 dc 0.9

Xota vinp vinn vout vdd vss vbn vbcn vbp vbcp ota_foldcasc

* Force output and sweep
Vout_force vout 0 dc 0.9

* Sweep output to get Rout at the operating point
.dc Vout_force 0.85 0.95 0.001

.control
  run
  * Current into output = -i(Vout_force)  
  * dI/dV at 0.9V gives the output conductance
  meas dc i_low FIND i(Vout_force) AT=0.899
  meas dc i_high FIND i(Vout_force) AT=0.901
  let gout = (i_high - i_low) / 0.002
  let rout = 1 / gout
  echo "Output conductance: $&gout S"
  echo "Output resistance: $&rout Ohm"
  echo ""
  * Also get the operating point data at Vout=0.9
  alter Vout_force dc = 0.9
  op
  echo "At Vout=0.9V forced:"
  echo "M2 gds=$&@m.xota.m2[gds] Id=$&@m.xota.m2[id] Vds=$&@m.xota.m2[vds]"
  echo "M4 gds=$&@m.xota.m4[gds] Vds=$&@m.xota.m4[vds] Vdsat=$&@m.xota.m4[vdsat]"
  echo "M6 gds=$&@m.xota.m6[gds] gm=$&@m.xota.m6[gm] Vds=$&@m.xota.m6[vds]"
  echo "M8 gds=$&@m.xota.m8[gds] gm=$&@m.xota.m8[gm] Vds=$&@m.xota.m8[vds]"
  echo "M10 gds=$&@m.xota.m10[gds] Vds=$&@m.xota.m10[vds]"
  quit
.endc
.end
